US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and p-(trifluoromethoxy)-benzoyl chloride, there is obtained ethyl N-[p-(trifluoromethoxy)-benzoyl]-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a syrup, mass spectrum m/e: M+ 454 (1), 425 (11), 194 (100), 189 (40);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | p-(trifluoromethoxy)-benzoyl chloride | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
product | ethyl N-[p-(trifluoromethoxy)-benzoyl]-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | FC(OC1=CC=C(C(=O)N=C(OCC)N2CC3=C(C4=C(C2)C=CC=C4)C=CC=C3)C=C1)(F)F | C25H21F3N2O3
